US05705188
To a solution of 4.25 g (11 mmol) 1,3-O-di-(t-butyldimethylsilyl)-2-O-tetrahydrofuranylglycerol in 30 ml tetrahydrofuran was added 30 ml of tetra-n-butylammonium fluoride (1 mol/l in THF) dropwise and the mixture was stirred at ambient temperature for 2 hours. The reaction mixture was then concentrated and the residue was subjected to column chromatography (silica gel/methylene chloride-methanol) to provide 1.70 g (96%) of 2-O-tetrahydrofuranylglycerol.

reactant | 1,3-O-di-(t-butyldimethylsilyl)-2-O-tetrahydrofuranylglycerol | 11 mmol, 4.25 g | [Si](C)(C)(C(C)(C)C)OCC(OC1OCCC1)CO[Si](C)(C)C(C)(C)C | C19H42O4Si2
reactant | tetra-n-butylammonium fluoride | 1 mol/l, 30 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-O-tetrahydrofuranylglycerol | 1.70 g, 96% | O1C(CCC1)OC(CO)CO | C7H14O4
